US04209621
7-(m-Trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 3.36 g. of 3-amino-1,2,4-triazole and 9.66 g. of 3-dimethylamino-3'-trifluoromethylacrylophenone in 50 ml. of glacial acetic acid is refluxed for 5 hours. The resulting mixture is worked up as described in Example 54 to give the product of the Example, m.p. 158.5°-159.5° C.

reactant | 3-amino-1,2,4-triazole | NC1=NNC=N1 | C2H4N4
reactant | 3-dimethylamino-3'-trifluoromethylacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(m-Trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine | FC(C=1C=C(C=CC1)C1=CC=NC=2N1N=CN2)(F)F | C12H7F3N4
